US05344843
A mixture of 4-[[2-(7-isoquinolyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.5 g) in hot methanol (5 mL) and tetrahydrofuran (5 mL) was treated with 1N sodium hydroxide (2.0 mL) and diluted with water. The organic solvent was removed under vacuum and the residue was dissolved in hot water. Cold 2N hydrochloric acid (1.0 mL) was added dropwise and the product was allowed to crystallize and was filtered, washed with water and dried to give 0.45 g of 4-[[2-(7-isoquinolyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid as a colorless solid, mp 260° C. with decomposition.

reactant | 4-[[2-(7-isoquinolyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C2C=CN=CC2=C1)=O)=O | C20H17NO5
reactant | sodium hydroxide | 1N, 2.0 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[[2-(7-isoquinolyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.45 g | C1=NC=CC2=CC=C(C=C12)OCCOC1=CC=C(C=C1)C(C(=O)O)=O | C19H15NO5
